US07504408B2
N′-{3-[6-Chloro-7-({6-methoxy-7-[3-(4-methyl-2-oxopiperazin-1-yl)propoxy]quinazolin-4-yl}amino)-1,3-benzodioxol-4-yl]prop-2-yn-1-yl}-N,N-dimethylurea
This was prepared by the method described in example 4 but using 1-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one (140 mg, 0.38 mmol), N′-[3-(7-amino-6-chloro-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]-N,N-dimethylurea (125 mg, 0.42 mmol) and sodium bis(trimethylsilyl)amide (1.0M in THF, 0.81 ml) in DMF (2 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanolic ammonia in dichloromethane as eluent. There was thus obtained the title compound (193 mg, 81%) as a pale yellow solid; NMR Spectrum:(DMSOd6) 2.03 (quintet, 2H), 2.20 (s, 3H), 2.59 (t, 2H), 2.81 (s, 6H), 2.91 (s, 2H), 3.33 (t, 2H), 3.48 (t, 2H), 3.94 (s, 3H), 4.10 (d, 2H), 4.14 (t, 2H), 6.14 (s, 2H), 6.82 (t, 1H), 7.07 (s, 1H), 7.16 (s, 1H), 7.82 (s, 1H), 8.32 (s, 1H), 9.49 (s, 1H); Mass Spectrum: M+H+ 624/626.

reactant | 1-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one | 0.38 mmol, 140 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1C(CN(CC1)C)=O | C17H21ClN4O3
reactant | N′-[3-(7-amino-6-chloro-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]-N,N-dimethylurea | 0.42 mmol, 125 mg | NC1=C(C=C(C2=C1OCO2)C#CCNC(N(C)C)=O)Cl | C13H14ClN3O3
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 0.81 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N′-{3-[6-Chloro-7-({6-methoxy-7-[3-(4-methyl-2-oxopiperazin-1-yl)propoxy]quinazolin-4-yl}amino)-1,3-benzodioxol-4-yl]prop-2-yn-1-yl}-N,N-dimethylurea | 193 mg, 81% | ClC=1C=C(C2=C(OCO2)C1NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1C(CN(CC1)C)=O)C#CCNC(N(C)C)=O | C30H34ClN7O6
